US07687491B2
(14b) Methyl 1-({4-ethyl-5-[5-(3-fluoro-4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 1 (1f) using {4-ethyl-5-[5-(3-fluoro-4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methanol (0.16 g, 0.40 mmol) that was obtained in Example 14 (14a), carbon tetrabromide (0.17 g, 0.52 mmol), triphenylphosphine (0.14 g, 0.52 mmol), methyl 3-azetidinecarboxylate hydrochloride (91 mg, 0.60 mmol), and N,N-diisopropylethylamine (0.21 mL, 1.2 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:3 to 1:2) as the eluent to afford the title compound (0.15 g) in a yield of 77% as a pale yellow oily product.

reactant | {4-ethyl-5-[5-(3-fluoro-4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methanol | 0.40 mmol, 0.16 g | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC(=C(C=C1)OC1=CC=CC=C1)F)CO | C21H17FN2O3S
reactant | carbon tetrabromide | 0.52 mmol, 0.17 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.52 mmol, 0.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 3-azetidinecarboxylate hydrochloride | 0.60 mmol, 91 mg | Cl.N1CC(C1)C(=O)OC
reactant | N,N-diisopropylethylamine | 1.2 mmol, 0.21 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | Methyl 1-({4-ethyl-5-[5-(3-fluoro-4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC(=C(C=C1)OC1=CC=CC=C1)F)CN1CC(C1)C(=O)OC | C26H24FN3O4S
